US04166735
4'-(Isopropoxy)-3'-chloro-1-methoxycyclopropanecarboxanilide
A mixture consisting of 5.6 g of 3-chloro-4-isopropoxyaniline, 3.9 g of methyl 1-methoxycyclopropanecarboxylate and 1.8 g of sodium methoxide in 50 ml of benzene was refluxed for 3 hours. The reaction mixture was concentrated to a volume of 25 ml, poured over ice water, acidified with hydrochloric acid and extracted with ether. The extract was dried, filtered and concentrated. Purification by silica chromatography gave 1.8 g of product as a white crystalline solid; m.p. 86°-87° C.

reactant | 3-chloro-4-isopropoxyaniline | 5.6 g | ClC=1C=C(N)C=CC1OC(C)C | C9H12ClNO
reactant | methyl 1-methoxycyclopropanecarboxylate | 3.9 g | COC1(CC1)C(=O)OC | C6H10O3
reactant | sodium methoxide | 1.8 g | C[O-].[Na+]
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 4'-(Isopropoxy)-3'-chloro-1-methoxycyclopropanecarboxanilide | 1.8 g | C(C)(C)OC1=C(C=C(NC(=O)C2(CC2)OC)C=C1)Cl | C14H18ClNO3
